US08735424B2
1-Chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (1.0 equiv.) was added to a solution of (S)-tert-butyl 1-(6-chloro-1,7-naphthyridin-4-yl)piperidin-3-ylcarbamate (1.0 equiv.) in MeCN (0.14 M). After stirring for 18 hours, Na2CO3(sat.) was added to quench. The solution was partitioned between EtOAc and Na2CO3(sat.) washed further with NaCl(sat.), dried over MgSO4, concentrated and purified by silica gel chromatography (25-50-100% EtOAc/hexanes w/0.1% DIEA eluant) to yield (S)-tert-butyl 1-(6-chloro-3-fluoro-1,7-naphthyridin-4-yl)piperidin-3-ylcarbamate (15%), as well as recovered (S)-tert-butyl 1-(6-chloro-1,7-naphthyridin-4-yl)piperidin-3-ylcarbamate (55%). LCMS (m/z): 381.1/383.0 (MH+); LC Rt=4.20 min.

reactant | 1-Chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 1.0 equiv. | F[B-](F)(F)F.F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F
reactant | (S)-tert-butyl 1-(6-chloro-1,7-naphthyridin-4-yl)piperidin-3-ylcarbamate | 1.0 equiv. | ClC=1C=C2C(=CC=NC2=CN1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C18H23ClN4O2
solvent | MeCN | 0.14 M | CC#N | C2H3N
product | (S)-tert-butyl 1-(6-chloro-3-fluoro-1,7-naphthyridin-4-yl)piperidin-3-ylcarbamate | 15% | ClC=1C=C2C(=C(C=NC2=CN1)F)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C18H22ClFN4O2
